US07470679B2
N-(2-Chloro-6-(hydroxymethyl)phenyl)pivalamide
To the crude (2-amino-3-chlorophenyl)methanol(1.08 g, 6.88 mmol) in CH2Cl2(15 mL) was fast dropwise added trimethylacetyl chloride(0.89 mL, 7.23 mmol), followed by DIEA(2.4 mL, 13.8 mmol) at 0° C. 5 min later, the reaction mixture was stirred at room temperature for 1 hr. Normal aqueous work-up to afford the expected product as a white solid(1.58 g, 95% yield), which was pure enough to be used in next step; 1H NMR (400 MHz, CDCl3) δppm 1.30 (s, 9H), 3.35 (s, 2H), 4.36 (d, J=6.29 Hz, 1H), 7.06-7.22 (m, J=7.81, 7.81 Hz, 1H), 7.29-7.33 (m, 2H), 7.58 (s, 1H); Mass spec. 242.08 (MH+), Calc. for C12H16ClNO2 241.09.

reactant | (2-amino-3-chlorophenyl)methanol | 6.88 mmol, 1.08 g | NC1=C(C=CC=C1Cl)CO | C7H8ClNO
reactant | trimethylacetyl chloride | 7.23 mmol, 0.89 mL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | DIEA | 13.8 mmol, 2.4 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | N-(2-Chloro-6-(hydroxymethyl)phenyl)pivalamide | 1.58 g, 95% yield | ClC1=C(C(=CC=C1)CO)NC(C(C)(C)C)=O | C12H16ClNO2
